US09145380B2
2-(2,3-Dichloro-benzenesulfonylamino)-5-hydroxymethyl-benzenesulfonamide
Lithium aluminum hydride (1M in THF, 6.6 mL, 6.6 mmol) was added slowly to a stirred solution of 4-(2,3-dichloro-benzenesulfonylamino)-3-sulfamoyl-benzoic acid ethyl ester (600 mg, 1.32 mmol) in dry THF (15 mL) at −10° C. The reaction mixture was allowed to warm to RT and stirring was continued for 4 h. The reaction mixture was then cooled to 0° C. and quenched by addition of water, followed by 1N HCl. The product was extracted with ethyl acetate, the combined organic phases were washed with water and brine, and dried over sodium sulfate. Volatiles were removed under reduced pressure and the crude product was purified by preparative HPLC to afford the title compound (60 mg, 11%).

reactant | Lithium aluminum hydride | 6.6 mmol, 1M, 6.6 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(2,3-dichloro-benzenesulfonylamino)-3-sulfamoyl-benzoic acid ethyl ester | 1.32 mmol, 600 mg | C(C)OC(C1=CC(=C(C=C1)NS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl)S(N)(=O)=O)=O | C15H14Cl2N2O6S2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(2,3-Dichloro-benzenesulfonylamino)-5-hydroxymethyl-benzenesulfonamide | 60 mg, 11% | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=C(C=C(C=C1)CO)S(=O)(=O)N | C13H12Cl2N2O5S2
